US06492370B1
1-[(2S)-2-[3-(2-Hydroxyethyl)-3-phenethylureido]-3-(4-hydroxyphenyl)propionyl]-4-methylpiperazine (Compound No. 23-1)
Under a nitrogen atmosphere, 20% palladium hydroxide on carbon (200 mg) is added to a solution of 1-[(2S)-2-[3-(2-hydroxyethyl)-3-phenethylureido]-3-[4-(benzyloxy)phenyl]propionyl]-4-methylpiperazine (Compound No. 18-40, 1.09 g) in tetrahydrofuran (2 ml)-methanol (2 ml). The mixture is stirred under a hydrogen atmosphere for three days. Palladium hydroxide on carbon is filtered out with Celite, and the filtrate is concentrated under reduced pressure to give 685 mg (75%) of the titled compound (Compound No. 23-1) as noncrystalline powder.

reactant | 1-[(2S)-2-[3-(2-hydroxyethyl)-3-phenethylureido]-3-[4-(benzyloxy)phenyl]propionyl]-4-methylpiperazine | 1.09 g | OCCN(C(N[C@H](C(=O)N1CCN(CC1)C)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)CCC1=CC=CC=C1 | C32H40N4O4
reactant | methanol | 2 ml | CO | CH4O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
catalyst | palladium hydroxide on carbon | 200 mg | [OH-].[OH-].[Pd+2]
product | 1-[(2S)-2-[3-(2-Hydroxyethyl)-3-phenethylureido]-3-(4-hydroxyphenyl)propionyl]-4-methylpiperazine | 685 mg, 75% | OCCN(C(N[C@H](C(=O)N1CCN(CC1)C)CC1=CC=C(C=C1)O)=O)CCC1=CC=CC=C1 | C25H34N4O4
